US04546078
Under agitation, 16.43 g of diaminooxyoctane is combined with 167.3 ml of 1N aqueous hydrochloric acid until the pH of the solution is 2.4. The solution is then concentrated under vacuum and the residue recrystallized from 93% strength ethanol, thus obtaining 14.83 g of diaminooxyoctane monohydrochloride, mp 174° C.

reactant | diaminooxyoctane | 16.43 g | NOC(CCCCCCC)ON | C8H20N2O2
reactant | hydrochloric acid | 1N, 167.3 ml | Cl | ClH
product | diaminooxyoctane monohydrochloride | 14.83 g | Cl.NOC(CCCCCCC)ON | InChI=1S/C8H20N2O2.ClH/c1-2-3-4-5-6-7-8(11-9)12-10;/h8H,2-7,9-10H2,1H3;1H
